US05486466
To a stirred solution of 41.1 g of 3-trityloxy-propionaldehyde in 330 ml of acetone and 120 ml of water were added portionwise, within 90 minutes, 20.65 g of potassium permanganate, the temperature of the mixture being maintained at 20° to 25° C. Stirring was continued for 90 minutes, and then the pH of the mixture was set to 5 by addition of 13 ml of 3N hydrochloric acid. Within 40 minutes, there were added dropwise 200 ml of 38% sodium bisulfite solution at a temperature of 20° to 25° C. The pH was lowered to 2 by the addition of 60 ml of 3N hydrochloric acid, and subsequently the mixture was extracted with 11 of ethyl acetate. The organic layer was washed with water, dried over sodium sulfate, and the solvent was evaporated in vacuo. The residue was crystallized from ethyl acetate/hexane to yield 35.5 g of 3-trityloxy-propionic acid as white solid of m.p. 159°-161° C.

reactant | 3-trityloxy-propionaldehyde | 41.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCCC=O | C22H20O2
reactant | potassium permanganate | 20.65 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | hydrochloric acid | 3N, 13 ml | Cl | ClH
reactant | sodium bisulfite | 200 ml | S([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 3N, 60 ml | Cl | ClH
solvent | acetone | 330 ml | CC(=O)C | C3H6O
solvent | water | 120 ml | O | H2O
product | 3-trityloxy-propionic acid | 35.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCCC(=O)O | C22H20O3
